US07410966B2
a) 6-Chloro-2-[4-(2-chloroethoxy)phenyl]-7-methoxy-3H-imidazo[4,5-b]pyridine
2-[4-(6-Chloro-7-methoxy-3H-imidazo[4,5-b]pyridin-2-yl)phenoxy]ethanol (0.26 g, 0.8 mmol) was dissolved in SOCl2 (10 ml). The reaction mixture was refluxed for 3 h, after which the excess SOCl2 was removed by evaporation. Repetitive co-evaporation with toluene yielded pure title compound (0.275 g, 100%).

reactant | 2-[4-(6-Chloro-7-methoxy-3H-imidazo[4,5-b]pyridin-2-yl)phenoxy]ethanol | 0.8 mmol, 0.26 g | ClC=1C(=C2C(=NC1)NC(=N2)C2=CC=C(OCCO)C=C2)OC | C15H14ClN3O3
reactant | SOCl2 | 10 ml | O=S(Cl)Cl | Cl2OS
product | 6-Chloro-2-[4-(2-chloroethoxy)phenyl]-7-methoxy-3H-imidazo[4,5-b]pyridine | ClC=1C(=C2C(=NC1)NC(=N2)C2=CC=C(C=C2)OCCCl)OC | C15H13Cl2N3O2
